US07579359B2
O-Benzylhydroxylamine hydrochloride (10.2 g, 63.7 mmol), N-(4-chloroquinolin-3-yl)benzamide (6.00 g, 21.2 mmol), and isopropanol (200 mL) were combined and heated at 80° C. After 18 hours the reaction mixture was concentrated under reduced pressure. The residue was dissolved in dichloromethane, and the solution was washed sequentially with saturated aqueous potassium carbonate and water and then concentrated under reduced pressure. This material was purified by column chromatography (320 g of silica gel, eluting with a gradient of 1-2% methanol in dichloromethane). The resulting solid was triturated with hexanes to provide a tan solid that was isolated by filtration. The solid was mixed with chloroform and isolated by filtration to provide 0.951 g of 1-(benzyloxy)-2-phenyl-1H-imidazo[4,5-c]quinoline as a reddish-brown solid. 2-Phenyl-1H-imidazo[4,5-c]quinolin-1-ol (2.39 g) was recovered from the aqueous washings.

reactant | O-Benzylhydroxylamine hydrochloride | 63.7 mmol, 10.2 g | Cl.C(C1=CC=CC=C1)ON
reactant | N-(4-chloroquinolin-3-yl)benzamide | 21.2 mmol, 6.00 g | ClC1=C(C=NC2=CC=CC=C12)NC(C1=CC=CC=C1)=O | C16H11ClN2O
reactant | isopropanol | 200 mL | C(C)(C)O | C3H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(benzyloxy)-2-phenyl-1H-imidazo[4,5-c]quinoline | 0.951 g | C(C1=CC=CC=C1)ON1C(=NC=2C=NC=3C=CC=CC3C21)C2=CC=CC=C2 | C23H17N3O
